US05112998
In 200 ml of tetrahydrofuran was dissolved 11.8 g of 1α,2α-epoxy-21,21-dimethoxy-20-methylpregna-4,6-dien-3-one, followed by addition of 36 ml of a 1.0M solution of sodium triethylborohydride in tetrahydrofuran under ice-cooling. The mixture was stirred under ice-cooling for 15 minutes, after which it was worked up in the same manner as Example 68 to give 10.24 g of 1α,2α-epoxy-21,21-dimethoxy-20-methylpregna-4,6-dien-3α-ol (yield: 85%) showing the following physical properties.

reactant | 1α,2α-epoxy-21,21-dimethoxy-20-methylpregna-4,6-dien-3-one | 11.8 g | O1[C@H]2[C@@H]1C(C=C1C=C[C@H]3[C@@H]4CC[C@H](C(C(OC)OC)C)[C@]4(CC[C@@H]3[C@@]21C)C)=O | C24H34O4
reactant | sodium triethylborohydride | C(C)[BH-](CC)CC.[Na+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 1α,2α-epoxy-21,21-dimethoxy-20-methylpregna-4,6-dien-3α-ol | 10.24 g, yield: 85% | O1[C@H]2[C@@H]1[C@H](C=C1C=C[C@H]3[C@@H]4CC[C@H](C(C(OC)OC)C)[C@]4(CC[C@@H]3[C@@]21C)C)O | C24H36O4
